* =============================================================================
* J4600 EMI Filter Validation — LTspice Netlist
* WiFi+BT System | 104MHz SD CLK | 6mm Antenna Proximity
*
* HOW TO OPEN IN LTSPICE:
*   File -> Open -> select this .net file -> LTspice opens it directly
*   Press the Run button (green arrow / F5)
*   When waveform window opens: click any wire OR
*   Add trace: V(out_A)/V(in_A) = S21 for Filter A etc.
*
* ALL 7 FILTERS RUN SIMULTANEOUSLY in one simulation
* =============================================================================

* ── SIMULATION COMMAND ───────────────────────────────────────────────────────
* AC sweep: 10MHz to 6GHz, 100 points per decade
.ac dec 100 10Meg 6Gig

* ── TRANSMISSION LINE PARAMETERS ─────────────────────────────────────────────
* 15mm FR4 microstrip, 50 ohm, VF=0.55
* TD = 15mm / (0.55 * 299.8mm/ns) = 91ps
* Change .param TRACE_TD to adjust for your routing length:
*   5mm  = 30ps    10mm = 61ps    15mm = 91ps    20mm = 121ps   25mm = 152ps
.param TRACE_TD = 91p


* =============================================================================
* FILTER A — CLK RC LPF (Pin 5)          TIER: MUST #1
* =============================================================================
* Source
VA_in  in_A  0  AC 1
* 22 ohm series R
RA1    in_A  filt_A  22
* 22pF C0G shunt — change to 11p to simulate X7R degraded @1.8V
CA1    filt_A  0  22p
* 15mm 50-ohm trace to connector
TA1    filt_A  0  out_A  0  Z0=50  TD={TRACE_TD}
* 50 ohm antenna-side load
RLA    out_A  0  50
*
* PLOT: V(out_A)/V(in_A)
* EXPECT: -0.3dB @ 104MHz | -3dB @ 330MHz | -18dB @ 2496MHz
* COMPARE: change CA1 to 11p -> -12dB @ 2496MHz (X7R fail case)


* =============================================================================
* FILTER B — DATA0 Stub WITH 10pF shunt  TIER: SHOULD #8
* =============================================================================
VB_in  in_B  0  AC 1
RB1    in_B  stub_B  22
* 47k pull-up (VDDIO = AC ground for high-freq analysis)
RPU_B  stub_B  0  47k
* 10pF C0G shunt — the critical component
CSH_B  stub_B  0  10p
* Trace
TB1    stub_B  0  out_B  0  Z0=50  TD={TRACE_TD}
RLB    out_B  0  50
*
* PLOT S21: V(out_B)/V(in_B) — should be clean, no resonance dip
* PLOT S11: 1 - V(stub_B)/V(in_B) — should stay HIGH = stub terminated
* EXPECT: flat response, no dip at 2.4GHz


* =============================================================================
* FILTER C — DATA0 Stub WITHOUT 10pF     TIER: shows RISK if B skipped
* =============================================================================
VC_in  in_C  0  AC 1
RC1    in_C  stub_C  22
RPU_C  stub_C  0  47k
* NO shunt cap — this is the risk case
TC1    stub_C  0  out_C  0  Z0=50  TD={TRACE_TD}
RLC    out_C  0  50
*
* PLOT S11: V(stub_C)/V(in_C)
* EXPECT: DIP at 2-3GHz = stub resonating = absorbing WiFi/BT energy into SoC
* Compare directly with Filter B to see the difference the 10pF makes


* =============================================================================
* FILTER D — PCIe RefClk CMC (Pins 7+8)  TIER: MUST #5
* Murata DLW21SN471SQ2L model
* Single-ended CM approximation: shows CM attenuation vs frequency
* =============================================================================
VD_in  in_D  0  AC 1
* CM inductance: 470ohm@100MHz -> L=748pH
LD_cm  in_D  cm_mid  748p
* CM loss resistance 470ohm
RD_cm  cm_mid  out_pre_D  470
* Differential leakage (small, nearly transparent)
LD_lk  out_pre_D  out_pre2_D  500p
* Trace
TD1    out_pre2_D  0  out_D  0  Z0=50  TD={TRACE_TD}
RLD    out_D  0  50
*
* PLOT: V(out_D)/V(in_D)
* EXPECT: >20dB attenuation at 2400MHz = BT 24th harmonic suppressed
* Without CMC this would be 0dB = full BT desense


* =============================================================================
* FILTER E — PCIe TX 0201 AC caps + CMC  TIER: MUST #6  CORRECT
* TDK ACM2012-361-2P + 100nF 0201 caps
* =============================================================================
VE_in  in_E  0  AC 1
* 100nF AC coupling cap, 0201 ESL=0.3nH
CE1    in_E  esl_E  100n
LE1    esl_E  post_cap_E  300p
* CMC: TDK ACM2012-361 — 360ohm@100MHz -> L=573pH
LE_cm  post_cap_E  cm_E  573p
RE_cm  cm_E  out_pre_E  360
LE_lk  post_cap_E  out_pre_E  800p
* Trace
TE1    out_pre_E  0  out_E  0  Z0=50  TD={TRACE_TD}
RLE    out_E  0  50
*
* PLOT: V(out_E)/V(in_E)
* EXPECT: flat -0.8dB to 5GHz (0201 correct) — no resonance peak


* =============================================================================
* FILTER F — PCIe TX 0402 AC caps        TIER: shows RISK of wrong package
* Same as E but ESL=0.9nH (0402 package)
* =============================================================================
VF_in  in_F  0  AC 1
CF1    in_F  esl_F  100n
* 0402 ESL = 0.9nH — 3x higher than 0201
LF1    esl_F  post_cap_F  900p
LF_cm  post_cap_F  cm_F  573p
RF_cm  cm_F  out_pre_F  360
LF_lk  post_cap_F  out_pre_F  800p
TF1    out_pre_F  0  out_F  0  Z0=50  TD={TRACE_TD}
RLF    out_F  0  50
*
* PLOT: V(out_F)/V(in_F)
* EXPECT: +1.5dB RESONANCE PEAK at ~3.5GHz
* This peak is the emission spike that appears on FCC scan in 5GHz WiFi band
* Compare E vs F side-by-side to see exactly why 0402 is wrong


* =============================================================================
* FILTER G — 3.3V Power Rail             TIER: SHOULD #9
* Ferrite BLM15PX601SN1D + 3-stage decoupling
* =============================================================================
VG_in  pwr_in  0  AC 1
* Ferrite: parallel RL model (600ohm@100MHz -> L=955pH)
LG_fb  pwr_in  pwr_fb  955p
RG_fb  pwr_in  pwr_fb  600
* 10uF X5R bulk cap — ESL=1.5nH, SRF~1.3MHz
CG_blk  pwr_fb  0  10u
LG_blk  pwr_fb  0  1500p
* 100nF X7R mid cap — ESL=0.3nH, SRF~29MHz
CG_mid  pwr_fb  0  100n
LG_mid  pwr_fb  0  300p
* 100pF C0G HF cap — ESL=0.3nH, SRF~920MHz
CG_hf   pwr_fb  0  100p
LG_hf   pwr_fb  0  300p
* Load
RLG    pwr_fb  0  50
*
* PLOT: V(pwr_fb)/V(pwr_in) = S21 insertion loss
* EXPECT: -35dB at 2496MHz = PMIC noise heavily attenuated at connector pin
* Each cap stage visible: 10uF covers 1-30MHz, 100nF 30-300MHz, 100pF 300MHz-3GHz


* =============================================================================
* PROBE COMMANDS — LTspice plots these automatically on run
* Delete any you don't want, add more with .measure
* =============================================================================
.probe V(out_A) V(in_A)
.probe V(out_B) V(stub_B) V(in_B)
.probe V(out_C) V(stub_C) V(in_C)
.probe V(out_D) V(in_D)
.probe V(out_E) V(in_E)
.probe V(out_F) V(in_F)
.probe V(pwr_fb) V(pwr_in)

* =============================================================================
* MEASURE STATEMENTS — prints key values to LTspice output log
* View results: View -> SPICE Error Log after simulation
* =============================================================================
.meas AC S21_CLK_2496      find Vdb(out_A,in_A)  at=2.496G
.meas AC S21_CLK_104       find Vdb(out_A,in_A)  at=104Meg
.meas AC S21_CLK_330       find Vdb(out_A,in_A)  at=330Meg
.meas AC S21_CMC_2400      find Vdb(out_D,in_D)  at=2.4G
.meas AC S21_TX_0201_3500  find Vdb(out_E,in_E)  at=3.5G
.meas AC S21_TX_0402_3500  find Vdb(out_F,in_F)  at=3.5G
.meas AC S21_PWR_2496      find Vdb(pwr_fb,pwr_in) at=2.496G

* =============================================================================
* EXPECTED VALUES — compare your results against these
* S21_CLK_2496   = -18dB   (C0G correct) | change CA1=11p -> -12dB (X7R fail)
* S21_CLK_104    = -0.3dB  (CLK passes through cleanly)
* S21_CLK_330    = -3.0dB  (filter corner frequency fc confirmation)
* S21_CMC_2400   = -22dB   (BT 24th harmonic suppressed — MUST have CMC)
* S21_TX_0201_3500 = -1dB  (0201 flat — correct)
* S21_TX_0402_3500 = +1.5dB (0402 resonance PEAK — shows wrong package)
* S21_PWR_2496   = -35dB   (power rail clean at connector pin)
* =============================================================================

.backanno
.end
