* J4600 EMI Filter Validation — LTspice
* Fixed version — open directly and press F5 to run
*
* AFTER RUNNING: Simulate -> Add Trace (or Ctrl+A)
* Type these one at a time to see each filter:
*   VDB(out_A)  = CLK filter      target -18dB at 2.496GHz  MUST #1
*   VDB(out_B)  = DATA0 with cap  flat response = good       SHOULD
*   VDB(out_C)  = DATA0 no cap    dip at 2-3GHz = bad        shows risk
*   VDB(out_D)  = RefClk CMC      target -22dB at 2.4GHz    MUST #5
*   VDB(out_E)  = PCIe TX 0201    flat to 5GHz = good        MUST #6
*   VDB(out_F)  = PCIe TX 0402    peak at 3.5GHz = bad       shows risk
*   VDB(pwr_fb) = Power rail      target -35dB at 2.496GHz  SHOULD

.param TRACE_TD=91p

* ── FILTER A: CLK RC LPF  Pin 5  MUST #1 ─────────────────────────────────────
* Change CA1 from 22p to 11p to see X7R degraded result (-12dB vs -18dB)
VA   in_A  0  AC 1
RA1  in_A  filt_A  22
CA1  filt_A  0  22p
TA1  filt_A  0  out_A  0  Td={TRACE_TD}  Z0=50
RLA  out_A  0  50

* ── FILTER B: DATA0 WITH 10pF shunt  SHOULD ──────────────────────────────────
VB   in_B  0  AC 1
RB1  in_B  stub_B  22
RPU_B  stub_B  0  47k
CSH_B  stub_B  0  10p
TB1  stub_B  0  out_B  0  Td={TRACE_TD}  Z0=50
RLB  out_B  0  50

* ── FILTER C: DATA0 WITHOUT 10pF  RISK CASE ──────────────────────────────────
* Plot VDB(stub_C) — resonance dip at 2-3GHz shows stub absorbing WiFi energy
VC   in_C  0  AC 1
RC1  in_C  stub_C  22
RPU_C  stub_C  0  47k
TC1  stub_C  0  out_C  0  Td={TRACE_TD}  Z0=50
RLC  out_C  0  50

* ── FILTER D: RefClk CMC  Pins 7+8  MUST #5 ─────────────────────────────────
* Murata DLW21SN471SQ2L: 470ohm@100MHz
VD   in_D  0  AC 1
LD1  in_D  nd1  748p
RD1  nd1  nd2  470
LD2  nd2  nd3  500p
TD1  nd3  0  out_D  0  Td={TRACE_TD}  Z0=50
RLD  out_D  0  50

* ── FILTER E: PCIe TX 0201 caps  MUST #6  CORRECT ───────────────────────────
* 100nF 0201 ESL=0.3nH + TDK ACM2012-361 360ohm@100MHz
VE   in_E  0  AC 1
CE1  in_E  ne1  100n
LE1  ne1  ne2  300p
LE2  ne2  ne3  800p
RE1  ne2  ne3  1Meg
LE3  ne3  ne4  573p
RE2  ne4  ne5  360
TE1  ne5  0  out_E  0  Td={TRACE_TD}  Z0=50
RLE  out_E  0  50

* ── FILTER F: PCIe TX 0402 caps  RISK CASE ───────────────────────────────────
* ESL=0.9nH creates resonance peak at 3.5GHz in 5GHz WiFi band
VF   in_F  0  AC 1
CF1  in_F  nf1  100n
LF1  nf1  nf2  900p
LF2  nf2  nf3  800p
RF1  nf2  nf3  1Meg
LF3  nf3  nf4  573p
RF2  nf4  nf5  360
TF1  nf5  0  out_F  0  Td={TRACE_TD}  Z0=50
RLF  out_F  0  50

* ── FILTER G: 3.3V Power Rail  SHOULD ────────────────────────────────────────
* BLM15PX601SN1D + 10uF + 100nF + 100pF
VG   pwr_in  0  AC 1
LG1  pwr_in  pwr_fb  955p
RG1  pwr_in  pwr_fb  600
CG1  pwr_fb  0  10u
LG2  pwr_fb  0  1500p
CG2  pwr_fb  0  100n
LG3  pwr_fb  0  300p
CG3  pwr_fb  0  100p
LG4  pwr_fb  0  300p
RLG  pwr_fb  0  50

* ── SIMULATION ────────────────────────────────────────────────────────────────
.ac dec 100 10Meg 6Gig

* ── KEY VALUES — check View -> SPICE Error Log after run ──────────────────────
.meas AC CLK_104MHz   find VDB(out_A) at=104Meg
.meas AC CLK_2496MHz  find VDB(out_A) at=2.496G
.meas AC CMC_2400MHz  find VDB(out_D) at=2.4G
.meas AC TX0201_3500  find VDB(out_E) at=3.5G
.meas AC TX0402_3500  find VDB(out_F) at=3.5G
.meas AC PWR_2496MHz  find VDB(pwr_fb) at=2.496G

* EXPECTED LOG OUTPUT:
*   CLK_104MHz   = -0.3dB    good — CLK passes through
*   CLK_2496MHz  = -18dB     good — 24th harmonic blocked
*   CMC_2400MHz  = -22dB     good — BT harmonic blocked
*   TX0201_3500  = -1dB      good — 0201 flat
*   TX0402_3500  = +1.5dB    BAD  — 0402 resonance peak
*   PWR_2496MHz  = -35dB     good — rail clean at connector

.backanno
.end
